US07795262B2
Step 3. Preparation of 1-(4-cyclobutyl-piperazin-1-yl)-2-(7-methoxy-1,2,4,5-tetrahydro-benzo [d]azepin-3-yl)-ethanone
To a stirred solution of 7-methoxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (177 mg, 1.0 mmol) in acetonitrile (5.0 ml) is added 2-chloro-(4-cyclobutyl-piperazine)-acetamide (216 mg, 1.0 mmol, 1.0 eq.), K2CO3 (376 mg, 2.0 mmol, 2.0 eq.) and NaI (30 mg). The resulting mixture is stirred at rt overnight. Water (10.0 ml) is added to quench the reaction, and the acetonitrile is evaporated. The residue is extracted with DCM (10 ml×3). The combined extracts are dried over sodium sulfate, and the solvent is removed under reduced pressure. The resulting residue is purified by PTLC (EtOAc/4% TEA) to give the title compound. 1H NMR (300 MHz, CDCl3) δ 6.99 (1H, d), 6.60˜6.66 (2H, m), 3.77 (3H, s), 3.60˜3.73 (4H, m), 3.26 (2H, s), 2.80˜3.00 (4H, m), 2.58˜2.73 (5H, m), 2.25˜2.40 (4H, m), 1.65˜2.10 (6H, m); MS (+VE) m/z 358.4 (M++1).

reactant | 7-methoxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.0 mmol, 177 mg | COC1=CC2=C(CCNCC2)C=C1 | C11H15NO
reactant | 2-chloro-(4-cyclobutyl-piperazine) acetamide | 1.0 mmol, 216 mg, 1.0 eq. | ClC1NCCN(C1)C1CCC1.C(C)(=O)N
reactant | K2CO3 | 2.0 mmol, 376 mg, 2.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 30 mg | [Na+].[I-]
solvent | acetonitrile | 5.0 ml | C(C)#N | C2H3N
solvent | Water | 10.0 ml | O | H2O
product | 1-(4-cyclobutyl-piperazin-1-yl)-2-(7-methoxy-1,2,4,5-tetrahydro-benzo [d]azepin-3-yl)-ethanone | C1(CCC1)N1CCN(CC1)C(CN1CCC2=C(CC1)C=C(C=C2)OC)=O | C21H31N3O2
